* Auto generated net list for ABM13W-32.000MHz-8-T
Rm Vout N002 41.19
Cm N002 N001 1.46fF
Co Vout Vin 0.46pF
Lm Vin N001 16.9mH
* Plating Load: 8pF
* Frequency: 32.0000MHz
.backanno
.end